US07528267B2
A solution of gaseous HCl in methyl alcohol (210 mL of 2N, or 0.46 mol) was placed in a 0.5 L 3 neck round bottom flask equipped with a magnetic stirrer, thermocouple, nitrogen line, condenser and heating mantle. A total of 25.1 g (0.21 mol) of D-threonine (98%, Aldrich) was added to the HCl/MeOH solution at room temperature and resulted mixture was refluxed overnight. The reaction was monitored by TLC using EtOAc/MeOH/AcOH=7:2.5:0.5 mixture as a mobile phase. The reaction was stopped when all D-threonine was essentially consumed (Rf=0.39 for D-threonine methyl ester, gives a “carrot”-hued spot with ninhydrin, and Rf=0.19 for D-threonine—a red spot with ninhydrin). A solvent was removed on rotavap to yield 39.49 g (110% yield) of a glass-looking material, which was used in the next step without purification.

reactant | HCl | Cl | ClH
reactant | methyl alcohol | 0.46 mol, 2N, 210 mL | CO | CH4O
reactant | D-threonine | 0.21 mol, 25.1 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | HCl MeOH | Cl.CO
reactant | EtOAc MeOH AcOH | CCOC(=O)C.CO.CC(=O)O
product | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
